US07125896B2
b) 4-[(3,5-Dimethylisoxazol-4-yl)methoxy]phenyl acetone
A mixture of 4-hydroxyphenyl acetone (1.5 g), 4-chloromethyl-3,5-dimethylisoxazole (1.6 g) and potassium carbonate (1.5 g) in dimethylformamide (10 ml) was heated and stirred at 60° C. for 18 h. After cooling, the mixture was poured into water and extracted twice with ethyl acetate. The combined solvent phase was washed twice with brine, dried (magnesium sulphate) and then evaporated. The resultant oil was chromatographed on silica using isohexane to 20% ethyl acetate in isohexane mixtures to give the title compound (2.5 g).

reactant | 4-hydroxyphenyl acetone | 1.5 g | OC1=CC=C(C=C1)CC(C)=O | C9H10O2
reactant | 4-chloromethyl-3,5-dimethylisoxazole | 1.6 g | ClCC=1C(=NOC1C)C | C6H8ClNO
reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-[(3,5-Dimethylisoxazol-4-yl)methoxy]phenyl acetone | 2.5 g | CC1=NOC(=C1COC1=CC=C(C=C1)CC(C)=O)C | C15H17NO3
